// not_gate gold smoke testbench
// Input 'a' pulses between 0V and 0.9V at 50 MHz.
// Check: output 'y' is the complement of 'a' (invert_match_frac > 0.9).
simulator lang=spectre
global 0

ahdl_include "not_gate_ref.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0

// 50 MHz square wave: 10ns low, 10ns high
Va (a 0) vsource type=pulse val0=0 val1=0.9 period=20n width=10n rise=200p fall=200p

IDUT (vdd vss a y) not_gate vth=0.45 tedge=100p

tran tran stop=200n maxstep=5n
save a y