// d2b_4bit gold smoke testbench
// VIN ramps 0→0.9V over 100ns, run 110ns.
// Check: DOUT3..DOUT0 decode monotonically with VIN (0→15).
simulator lang=spectre
global 0

ahdl_include "_va_d2b_4b.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vvin (vin 0) vsource type=pwl wave=[0 0  100n 0.9  110n 0.9]

IDUT (vdd vss vin DOUT3 DOUT2 DOUT1 DOUT0) _va_d2b_4b tedge=50p dt=1n

tran tran stop=110n maxstep=2n
save vin DOUT3 DOUT2 DOUT1 DOUT0
